US08110688B2
Synthesis of 2-(N,N-diethylcarbamoyloxy)-6-methoxytoluene
A solution of 3.15 g (22.8 mmol) of 2-hydroxy-6-methoxytoluene in 16 mL acetonitrile was added with 3.50 g (25.1 mmol) of potassium carbonate and 3.4 g (25.1 mmol) of diethylcarbamoyl chloride and heated and stirred on a 100° C. oil bath for 59 minutes. After addition of 0.6 g (4.4 mmol) of diethylcarbamoyl chloride and heated for 38 minutes, while stirring on an ice-water bath, 30 mL of toluene and 30 mL of water, were added into the reaction mixture, and the mixture was stirred for 20 minutes, transferred to a separatory funnel and settled. The aqueous layer was separated and discarded and after the organic layer was washed with 10 mL of 2 N aqueous sodium hydroxide and 10 mL of water twice, and the solvent was evaporated to obtain 5.58 g of the crude title compound. Since the mixture solidified, a part thereof was obtained as seed crystals.

reactant | 2-hydroxy-6-methoxytoluene | 22.8 mmol, 3.15 g | OC1=C(C(=CC=C1)OC)C | C8H10O2
reactant | potassium carbonate | 25.1 mmol, 3.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylcarbamoyl chloride | 25.1 mmol, 3.4 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | diethylcarbamoyl chloride | 4.4 mmol, 0.6 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | water | 30 mL | O | H2O
product | 2-(N,N-diethylcarbamoyloxy)-6-methoxytoluene | 5.58 g | C(C)N(C(=O)OC1=C(C(=CC=C1)OC)C)CC | C13H19NO3
